* AD8646 SPICE Macro-mode Typical Values
* Description: Amplifier
* Generic Desc: 2.7/5V, CMOS, OP, Fast, RRIO, 2X
* Developed by: HH-S
* Revision History: 08/10/2012 - Updated to new header style
* 1.1 ( 07/2010) - Modify 1/f circuit
* 1.0 (04/2008)
* Copyright 2008, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT AD8646          1   2   99  50  45
*
* INPUT STAGE
*
M1   4  7  8  8 PIX L=2E-6 W=6.443E-03
M2   6  2  8  8 PIX L=2E-6 W=6.443E-03
M3  14  7 18 18 NIX L=2E-6 W=6.443E-03
M4  16  2 18 18 NIX L=2E-6 W=6.443E-03
RD1  4 50 1.818E+03
RD2  6 50 1.818E+03
RD3 99 14 1.818E+03
RD4 99 16 1.818E+03
C1   4  611 2.900E-13
rcx1 611 6 3.8m
C2  14 1611 2.900E-13
rcx2 1611 16 3.8m 
I1  99  8 2.20E-04
I2  18 50 2.20E-04
V1  99  9 1.117E+00
V2  19 50 1.117E+00
D1   8  9 DX
D2  19 18 DX
EOS  7  1 POLY(4) (73,98) (22,98) (81,98) (83,98) 6.00E-04 1 1 1 1
IOS  1  2 2.50E-11
*
*CMRR=90dB, POLE AT 12000 Hz
*
E1  72 98 POLY(2) (1,98) (2,98) 0 9.438E-02 9.438E-02
R10 72 73 1.326E+01
R20 73 98 2.274E-03
C10 72 73 1.000E-06
*
* PSRR=80dB, POLE AT 7000 Hz
*
EPSY 21 98 POLY(1) (99,50) -14.865E+00 2.973E-00
RPS1 21 22 4.301E+01
RPS2 22 98 1.447E-03
CPS1 21 22 1.000E-06
*
* VOLTAGE NOISE REFERENCE OF 6nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 20.70E-3
HN  81 98 VN1 6.20E+00
RN2 81 98 1
*
* FLICKER NOISE CORNER = 900 Hz
*
DFN 82 98 DNOISE 1000
IFN 98 82 DC 1E-03
DFN2 182 98 DY
IFN2 98 182 DC 1E-06
*VFN 82a 98 DC 0.0
*VFN 82 98 DC 0.6551
GFN 83 98 POLY(1) (182,82) 1.00E-13 1.00E-01
*HFN 83 98 POLY(1) VFN 1.00E-03 1.00E+00
RFN 83 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 0.5 0.5
GSY  99 50 POLY(1) (99,50) -308.0E-06 78.0E-06
EVP  97 98 (99,50) 0.5
EVN  51 98 (50,99) 0.5
*
* GAIN STAGE
*
G1 98 30 POLY(2) (4,6) (14,16) 0 4.574E-04 4.574E-04
R1 30 98 1.00E+06
CF 30 31 2.400E-11
RZ 45 31 3.221E+01
V3 32 30 1.108E+00
V4 30 33 1.193E-00
D3 32 97 DX
D4 51 33 DX
*
* OUTPUT STAGE
*
M5  455 46 99 99 POX L=1E-6 W=6.079E-03
M6  455 47 50 50 NOX L=1E-6 W=5.983E-03
EG1 99 46 POLY(1) (98,30) 5.115E-01 1
EG2 47 50 POLY(1) (30,98) 5.130E-01 1
Lout 45 455 1nH
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=1.00E-05,VTO=-0.328,LAMBDA=0.01,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=1.00E-05,VTO=+0.328,LAMBDA=0.01,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=1.00E-05,VTO=-0.5,LAMBDA=0.01)
.MODEL NIX NMOS (LEVEL=2,KP=1.00E-05,VTO=0.5,LAMBDA=0.01)
.MODEL DX D(IS=1E-14,RS=0.1)
.MODEL DY D(IS=1E-16,RS=0.1)
.MODEL DNOISE D(IS=1E-16,RS=0,KF=3.85E-12)
*.MODEL DNOISE D(IS=1E-14,RS=0,KF=2.580E-11)
*
*
.ENDS AD8646
*
*$




